US04245097
Preparation of 4-(6-oximinohexadecylamino)benzoic acid
A solution of the ethyl 4-(6-oximinohexadecylamino)benzoate, 1.0 g. of potassium hydroxide and 15 ml. of ethanol in 15 ml. of water is stirred under reflux for 2 hours, evaporated, and then treated with 15 ml. of water and 2.3 ml. of concentrated hydrochloric acid. The mixture is extracted with methylene chloride and the dried extract is evaporated. Crystallization from ethanol-water affords the product as a white solid.

reactant | ethyl 4-(6-oximinohexadecylamino)benzoate | N(O)=C(CCCCCNC1=CC=C(C(=O)OCC)C=C1)CCCCCCCCCC | C25H42N2O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(6-oximinohexadecylamino)benzoic acid | N(O)=C(CCCCCNC1=CC=C(C(=O)O)C=C1)CCCCCCCCCC | C23H38N2O3
